US04046908
B. 4-[(2,2-Dichlorocyclopropyl)methyl]thio-o-phenylenediamine
A mixture of 8.8 g (0.03 mole) of 4-[(2,2-dichlorocyclopropyl)methyl]thio-2-nitroaniline and 0.6 g of PtO2 in 200 ml of absolute ethanol is reduced on the Parr hydrogenator at 50 psi until the theoretical amount of H2 is absorbed. The mixture is filtered and the solvent is removed in vacuo to yield a dark oil.

reactant | 4-[(2,2-dichlorocyclopropyl)methyl]thio-2-nitroaniline | 0.03 mole, 8.8 g | ClC1(C(C1)CSC1=CC(=C(N)C=C1)[N+](=O)[O-])Cl | C10H10Cl2N2O2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | PtO2 | 0.6 g | O=[Pt]=O
product | 4-[(2,2-Dichlorocyclopropyl)methyl]thio-o-phenylenediamine | ClC1(C(C1)CSC1=CC(=C(C=C1)N)N)Cl | C10H12Cl2N2S
